US07943622B2
Step 1. Synthesis of 4-nitrophenyl 2-methylbenzo[d]thiazol-5-ylcarbamate hydrochloride
5-Amino-2-methylbenzothiazole dihydrochloride (530 mg, 2.23 mmol) was dissolved in 1 N NaOH (10 mL) and was extracted with EtOAc (3×20 mL). The combined extracts were dried over Na2SO4, filtered, and concentrated under reduced pressure. The material was dissolved in CH2Cl2 (10 mL), p-nitrophenyl chloroformate (586 mg, 2.91 mmol) was added, and the reaction mixture was stirred at rt overnight. The resulting solid was collected by filtration, was washed with CH2Cl2, and was dried under vacuum. This gave 853 mg of the title compound contaminated with some 5-amino-2-methylbenzothiazole. LC-MS: RT=8.49 min, [M+H]+=330.0.

reactant | 5-Amino-2-methylbenzothiazole dihydrochloride | 2.23 mmol, 530 mg | Cl.Cl.NC=1C=CC2=C(N=C(S2)C)C1
reactant | p-nitrophenyl chloroformate | 2.91 mmol, 586 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | NaOH | 1 N, 10 mL | [OH-].[Na+]
product | 4-nitrophenyl 2-methylbenzo[d]thiazol-5-ylcarbamate hydrochloride | Cl.CC=1SC2=C(N1)C=C(C=C2)NC(OC2=CC=C(C=C2)[N+](=O)[O-])=O | InChI=1S/C15H11N3O4S.ClH/c1-9-16-13-8-10(2-7-14(13)23-9)17-15(19)22-12-5-3-11(4-6-12)18(20)21;/h2-8H,1H3,(H,17,19);1H
